US04032639
2-Nitro-4-Trifluoroacetamidofluorobenzene
To a stirred solution of 7.8 g. of 4-fluoro-3-nitroaniline, 5.0 g. of triethylamine in 150 ml. of methylene chloride is added dropwise 10.5 g. of trifluoroacetic anhydride at 5° to 10°. The mixture is stirred for 0.5 hours, washed with water, dried and concentrated to give a brown oil which crystallizes. Recrystallization from benzene cyclohexane gives 5.3 g. of product, m.p. 70°-75°.

reactant | 4-fluoro-3-nitroaniline | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Nitro-4-Trifluoroacetamidofluorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)NC(C(F)(F)F)=O)F | C8H4F4N2O3
